US05334740
Nine milliliters of diisopropylethylamine were added to 2.11 g of 4,5-(dimethylmethylenedioxy)-3-hydroxy-6-heptenenitrile, and 2 ml of methoxymethyl chloride was then added to the mixture gradually at 0° C. After stir-ring at 0° C. for 16 hours, the reaction mixture was diluted with 300 ml of diethyl ether, and washed with 1N hydrochloric acid, a saturated sodium hydrogen carbonate aqueous solution and a sodium chloride aqueous solution in sequence. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was filtered by a silica gel column to afford 2.28 g of 4,5-(dimethylmethylenedioxy)-3-methoxymethoxy-6-heptenenitrile having the following properties (yield 88 %).

reactant | diisopropylethylamine | Nine milliliters | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4,5-(dimethylmethylenedioxy)-3-hydroxy-6-heptenenitrile | 2.11 g | CC1(OC(C(CC#N)O)C(C=C)O1)C | C10H15NO3
reactant | methoxymethyl chloride | 2 ml | COCCl | C2H5ClO
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 4,5-(dimethylmethylenedioxy)-3-methoxymethoxy-6-heptenenitrile | 2.28 g, yield 88 % | CC1(OC(C(CC#N)OCOC)C(C=C)O1)C | C12H19NO4
